US07897601B2
To a solution of 3-(4-chloro-phenyl)-prop-2-ynylamine (14.0 g) in 200 mL each of MeOH and CH2Cl2 was added Et3N (1.2 mL) and Lindlar catalyst (1.4 g) and the resulting suspension was stirred under a H2 balloon. The reaction was followed by TLC (i.e., thin layer chromatography) using 6% methanol-dichloromethane as eluent and once completed, filtered through a CELITE pad, concentrated and purified by chromatography to provide 10.5 g of 3-(4-chloro-phenyl)-allylamine. MS: m/e 168.6 (MH+)

reactant | 3-(4-chloro-phenyl)-prop-2-ynylamine | 14.0 g | ClC1=CC=C(C=C1)C#CCN | C9H8ClN
reactant | Et3N | 1.2 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 200 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Lindlar catalyst | 1.4 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol dichloromethane | CO.ClCCl
product | 3-(4-chloro-phenyl)-allylamine | 10.5 g | ClC1=CC=C(C=C1)C=CCN | C9H10ClN
